US09447044B2
Step A: (E)-3-(3-fluoro-4-methoxy-phenyl)-2-methyl-acrylic acid ethyl ester
After 3-fluoro-4-methoxy-benzaldehyde (0.50 g, 3.24 mmol) was dissolved in anhydrous THF (10 mL), carbethoxyethylidene triphenylphosphorane (1.75 g, 4.86 mmol) was added thereto at 0° C., and the mixture was stirred at room temperature for 3 hours. After the termination of the reaction, the reactant was concentrated under reduced pressure and purified by column chromatography (eluent, EtOAc/Hex=1/2) to obtain the title compound (0.768 g, 99%).

reactant | 3-fluoro-4-methoxy-benzaldehyde | 3.24 mmol, 0.50 g | FC=1C=C(C=O)C=CC1OC | C8H7FO2
reactant | carbethoxyethylidene triphenylphosphorane | 4.86 mmol, 1.75 g | C(=O)(OCC)CC=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C23H23O2P
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (E)-3-(3-fluoro-4-methoxy-phenyl)-2-methyl-acrylic acid ethyl ester | 0.768 g, 99% | C(C)OC(\C(=C\C1=CC(=C(C=C1)OC)F)\C)=O | C13H15FO3
